US08754089B2
2-(1-(3-Bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)-isoindoline-1,3-dione
A solution of 3-bromo-7-fluoro-2-(1-hydroxyethyl)-4H-pyrido[1,2-a]pyrimidin-4-one (1.238 g, 4.31 mmol), triphenylphosphine (1.357 g, 5.17 mmol), phthalimide (0.761 g, 5.17 mmol), and THF (28.7 mL) was stirred at rt for 5 min to dissolve all reactants. The mixture was then cooled to 0° C. and to the cooled homogenous mixture was added dropwise over 3 min diisopropyl azodicarboxylate (1.019 mL, 5.17 mmol) at 0° C. After stirring at 0° C. for 30 min, the cooling bath was removed and the mixture was stirred at rt. After 1.5 h, the mixture was partitioned between EtOAc (50 mL) and water (50 mL). The insoluble solid was filtered, washed with water (50 mL) and EtOAc (50 mL), and dried under vacuum to give the desired product 2-(1-(3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione as a white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.92-9.00 (1 H, m), 8.12 (1 H, ddd, J=9.9, 7.1, 2.9 Hz), 7.82-7.92 (4 H, m), 7.75 (1 H, dd, J=9.8, 5.5 Hz), 5.56-5.66 (1 H, m), 1.85 (3 H, d, J=7.0 Hz); Mass Spectrum (ESI) m/e=416.0 [M+1 (79Br)] and 418.0 [M+1 (81Br)]. To the filtrate was added brine (50 mL) and the organic layer was separated, dried over Na2SO4, filtered and concd under reduced pressure to give the crude material as a yellow solid. The yellow solid was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and 50% isocratic of EtOAc for 10 min as eluent to give the desired product 2-(1-(3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)-ethyl)isoindoline-1,3-dione as a light yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.95 (1 H, td, J=3.1, 1.6 Hz), 8.12 (1 H, ddd, J=9.9, 7.1, 2.9 Hz), 7.83-7.93 (4 H, m), 7.71-7.79 (1 H, m), 5.57-5.65 (1 H, m), 1.85 (3 H, d, J=7.0 Hz); Mass Spectrum (ESI) m/e=416.0 [M+1 (79Br)] and 418.0 [M+1 (81Br)].

reactant | 3-bromo-7-fluoro-2-(1-hydroxyethyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 4.31 mmol, 1.238 g | BrC1=C(N=C2N(C1=O)C=C(C=C2)F)C(C)O | C10H8BrFN2O2
reactant | triphenylphosphine | 5.17 mmol, 1.357 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 5.17 mmol, 0.761 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 5.17 mmol, 1.019 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 28.7 mL | C1CCOC1 | C4H8O
product | 2-(1-(3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione | BrC1=C(N=C2N(C1=O)C=C(C=C2)F)C(C)N2C(C1=CC=CC=C1C2=O)=O | C18H11BrFN3O3
